US05023258
2-(2,4-Dichlorophenyl)-3-(4-[4-(4-phenoxycarbonylaminophenyl)piperazin-1-yl]phenoxy)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol
To a stirred solution of 3-(4-[4-(4-aminophenyl)piperazin-1-yl]phenoxy)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol (see Preparation 1) (0.5 g, 0.93 mmole) and triethylamine (0.16 g, 1.6 mmole) in methylene chloride (20 ml) at 0° was added, dropwise, a solution of phenyl chloroformate (0.16 g, 1.02 mmole) in methylene chloride (2 ml). After 1 hour at 0°, an additional portion of phenyl chloroformate (0.05 g, 0.32 mmole) was added and stirring continued for a further 0.5 hour. The reaction was subsequently quenched by the addition of 2N sodium hydroxide solution, methylene chloride added, the organic phase separated, washed with water, dried over magnesium sulphate and concentrated under reduced pressure to yield a foam. Trituration of this foam with ether yielded the desired product as a buff solid, (0.42 g, 68%), which was used without further purification.

reactant | 3-(4-[4-(4-aminophenyl)piperazin-1-yl]phenoxy)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | 0.93 mmole, 0.5 g | NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(OCC(CN2N=CN=C2)(O)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C27H28Cl2N6O2
reactant | triethylamine | 1.6 mmole, 0.16 g | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 1.02 mmole, 0.16 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | phenyl chloroformate | 0.32 mmole, 0.05 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | ether | CCOCC | C4H10O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,4-Dichlorophenyl)-3-(4-[4-(4-phenoxycarbonylaminophenyl)piperazin-1-yl]phenoxy)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)OC1=CC=CC=C1)O | C34H32Cl2N6O4
